* Subcircuit 74HC137
.subckt 74HC137 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ 
.title kicad schematic
.include 3_and.sub
* u32 net-_u24-pad3_ net-_u1-pad9_ d_inverter
* u31 net-_u23-pad3_ net-_u1-pad8_ d_inverter
* u30 net-_u22-pad3_ net-_u1-pad7_ d_inverter
* u16 net-_u16-pad1_ net-_u16-pad2_ d_inverter
* u17 net-_u17-pad1_ net-_u17-pad2_ d_inverter
* u22 net-_u14-pad2_ net-_u13-pad2_ net-_u22-pad3_ d_nor
* u23 net-_u15-pad2_ net-_u13-pad2_ net-_u23-pad3_ d_nor
* u25 net-_u17-pad2_ net-_u13-pad2_ net-_u25-pad3_ d_nor
* u24 net-_u16-pad2_ net-_u13-pad2_ net-_u24-pad3_ d_nor
* u26 net-_u18-pad2_ net-_u13-pad2_ net-_u26-pad3_ d_nor
* u14 net-_u14-pad1_ net-_u14-pad2_ d_inverter
* u15 net-_u15-pad1_ net-_u15-pad2_ d_inverter
* u18 net-_u18-pad1_ net-_u18-pad2_ d_inverter
* u33 net-_u25-pad3_ net-_u1-pad10_ d_inverter
* u34 net-_u26-pad3_ net-_u1-pad11_ d_inverter
* u4 net-_u1-pad2_ net-_u10-pad1_ d_inverter
* u9 net-_u3-pad2_ net-_u10-pad2_ unconnected-_u9-pad3_ unconnected-_u9-pad4_ net-_u9-pad5_ net-_u9-pad6_ d_dlatch
* u3 net-_u1-pad1_ net-_u3-pad2_ d_inverter
* u10 net-_u10-pad1_ net-_u10-pad2_ unconnected-_u10-pad3_ unconnected-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ d_dlatch
* u2 net-_u1-pad5_ net-_u2-pad2_ d_inverter
* u7 net-_u1-pad6_ net-_u12-pad2_ d_inverter
* u8 net-_u2-pad2_ net-_u12-pad1_ d_inverter
* u11 net-_u11-pad1_ net-_u10-pad2_ unconnected-_u11-pad3_ unconnected-_u11-pad4_ net-_u11-pad5_ net-_u11-pad6_ d_dlatch
* u5 net-_u1-pad3_ net-_u11-pad1_ d_inverter
* u6 net-_u1-pad4_ net-_u10-pad2_ d_inverter
* u29 net-_u21-pad2_ net-_u13-pad2_ net-_u29-pad3_ d_nor
* u28 net-_u20-pad2_ net-_u13-pad2_ net-_u28-pad3_ d_nor
* u27 net-_u19-pad2_ net-_u13-pad2_ net-_u27-pad3_ d_nor
* u21 net-_u21-pad1_ net-_u21-pad2_ d_inverter
x8 net-_u11-pad5_ net-_u10-pad5_ net-_u9-pad5_ net-_u21-pad1_ 3_and
x7 net-_u9-pad6_ net-_u10-pad5_ net-_u11-pad5_ net-_u20-pad1_ 3_and
* u20 net-_u20-pad1_ net-_u20-pad2_ d_inverter
* u19 net-_u19-pad1_ net-_u19-pad2_ d_inverter
* u35 net-_u27-pad3_ net-_u1-pad12_ d_inverter
* u36 net-_u28-pad3_ net-_u1-pad13_ d_inverter
* u37 net-_u29-pad3_ net-_u1-pad14_ d_inverter
x6 net-_u11-pad5_ net-_u10-pad6_ net-_u9-pad5_ net-_u19-pad1_ 3_and
x5 net-_u9-pad6_ net-_u10-pad6_ net-_u11-pad5_ net-_u18-pad1_ 3_and
* u12 net-_u12-pad1_ net-_u12-pad2_ net-_u12-pad3_ d_nor
* u13 net-_u12-pad3_ net-_u13-pad2_ d_inverter
x4 net-_u11-pad6_ net-_u10-pad5_ net-_u9-pad5_ net-_u17-pad1_ 3_and
x1 net-_u9-pad6_ net-_u10-pad6_ net-_u11-pad6_ net-_u14-pad1_ 3_and
x3 net-_u9-pad6_ net-_u10-pad5_ net-_u11-pad6_ net-_u16-pad1_ 3_and
x2 net-_u11-pad6_ net-_u10-pad6_ net-_u9-pad5_ net-_u15-pad1_ 3_and
a1 net-_u24-pad3_ net-_u1-pad9_ u32
a2 net-_u23-pad3_ net-_u1-pad8_ u31
a3 net-_u22-pad3_ net-_u1-pad7_ u30
a4 net-_u16-pad1_ net-_u16-pad2_ u16
a5 net-_u17-pad1_ net-_u17-pad2_ u17
a6 [net-_u14-pad2_ net-_u13-pad2_ ] net-_u22-pad3_ u22
a7 [net-_u15-pad2_ net-_u13-pad2_ ] net-_u23-pad3_ u23
a8 [net-_u17-pad2_ net-_u13-pad2_ ] net-_u25-pad3_ u25
a9 [net-_u16-pad2_ net-_u13-pad2_ ] net-_u24-pad3_ u24
a10 [net-_u18-pad2_ net-_u13-pad2_ ] net-_u26-pad3_ u26
a11 net-_u14-pad1_ net-_u14-pad2_ u14
a12 net-_u15-pad1_ net-_u15-pad2_ u15
a13 net-_u18-pad1_ net-_u18-pad2_ u18
a14 net-_u25-pad3_ net-_u1-pad10_ u33
a15 net-_u26-pad3_ net-_u1-pad11_ u34
a16 net-_u1-pad2_ net-_u10-pad1_ u4
a17 net-_u3-pad2_ net-_u10-pad2_ unconnected-_u9-pad3_ unconnected-_u9-pad4_ net-_u9-pad5_ net-_u9-pad6_ u9
a18 net-_u1-pad1_ net-_u3-pad2_ u3
a19 net-_u10-pad1_ net-_u10-pad2_ unconnected-_u10-pad3_ unconnected-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ u10
a20 net-_u1-pad5_ net-_u2-pad2_ u2
a21 net-_u1-pad6_ net-_u12-pad2_ u7
a22 net-_u2-pad2_ net-_u12-pad1_ u8
a23 net-_u11-pad1_ net-_u10-pad2_ unconnected-_u11-pad3_ unconnected-_u11-pad4_ net-_u11-pad5_ net-_u11-pad6_ u11
a24 net-_u1-pad3_ net-_u11-pad1_ u5
a25 net-_u1-pad4_ net-_u10-pad2_ u6
a26 [net-_u21-pad2_ net-_u13-pad2_ ] net-_u29-pad3_ u29
a27 [net-_u20-pad2_ net-_u13-pad2_ ] net-_u28-pad3_ u28
a28 [net-_u19-pad2_ net-_u13-pad2_ ] net-_u27-pad3_ u27
a29 net-_u21-pad1_ net-_u21-pad2_ u21
a30 net-_u20-pad1_ net-_u20-pad2_ u20
a31 net-_u19-pad1_ net-_u19-pad2_ u19
a32 net-_u27-pad3_ net-_u1-pad12_ u35
a33 net-_u28-pad3_ net-_u1-pad13_ u36
a34 net-_u29-pad3_ net-_u1-pad14_ u37
a35 [net-_u12-pad1_ net-_u12-pad2_ ] net-_u12-pad3_ u12
a36 net-_u12-pad3_ net-_u13-pad2_ u13
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u32 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u31 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u30 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u17 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u22 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u23 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u25 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u24 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u26 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u14 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u15 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u18 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u33 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u34 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_dlatch, Ngspice Name: d_dlatch
.model u9 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_dlatch, Ngspice Name: d_dlatch
.model u10 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u7 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_dlatch, Ngspice Name: d_dlatch
.model u11 d_dlatch(data_delay=1.0e-9 enable_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0e-9 ic=0 data_load=1.0e-12 enable_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u6 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u29 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u28 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u27 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u21 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u20 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u19 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u35 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u36 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u37 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nor, Ngspice Name: d_nor
.model u12 d_nor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u13 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends 74HC137