.title kicad schematic

.include TRISTATE.sub
x1 net-_u2-pad2_ net-_u1-pad2_ net-_u1-pad3_ TRISTATE
x2 net-_u2-pad2_ net-_u1-pad2_ net-_u1-pad4_ TRISTATE
x4 net-_u2-pad2_ net-_u1-pad2_ net-_u1-pad6_ TRISTATE
* u1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ port
x3 net-_u2-pad2_ net-_u1-pad2_ net-_u1-pad5_ TRISTATE
* u2 net-_u1-pad1_ net-_u2-pad2_ d_buffer
a1 net-_u1-pad1_ net-_u2-pad2_ u2
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u2 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0.1e-06 100e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
