.title kicad schematic

v1 net-_u2-pad1_ gnd  dc 0
* u1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ port
* u5 net-_u3-pad2_ net-_u2-pad2_ net-_u5-pad3_ d_and
* u4 net-_u1-pad1_ net-_u1-pad2_ net-_u4-pad3_ d_and
* u2 net-_u2-pad1_ net-_u2-pad2_ adc_bridge_1
* u3 net-_u1-pad1_ net-_u3-pad2_ d_inverter
* u7 net-_u6-pad3_ net-_u1-pad3_ d_buffer
* u6 net-_u4-pad3_ net-_u5-pad3_ net-_u6-pad3_ d_or
a1 [net-_u3-pad2_ net-_u2-pad2_ ] net-_u5-pad3_ u5
a2 [net-_u1-pad1_ net-_u1-pad2_ ] net-_u4-pad3_ u4
a3 [net-_u2-pad1_ ] [net-_u2-pad2_ ] u2
a4 net-_u1-pad1_ net-_u3-pad2_ u3
a5 net-_u6-pad3_ net-_u1-pad3_ u7
a6 [net-_u4-pad3_ net-_u5-pad3_ ] net-_u6-pad3_ u6
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u5 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u4 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u7 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u6 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0.1e-06 100e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
